US04868196
27 g (0.9 mol) of 80% strength sodium hydride were introduced in portions into a solution of 290 g (0.86 mol) of 2-(4-chloro-2-methyl-phenoxy-methyl)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-2-butanol in 1,600 ml of absolute dioxane at room temperature. The mixture was subsequently stirred at room temperature for 4 hours, and 141.9 g (1 mol) of iodomethane were then added dropwise. The reaction mixture was stirred at 40° C. for 12 hours and another 10 g (0.33 mol) of 80% strength sodium hydride were then added in portions. After the mixture hadbeen stirred at room temperature for three hours, 57 g (0.4 mol) of iodomethane were added and the reaction mixture was subsequently stirred at room temperature for 72 hours. The suspension was filtered, the filtrate was concentrated, the oily residue was taken up in methylene chloride and the methylene chloride mixture was washed twice with water, dried over sodium sulphate and concentrated. 1,5-Naphthalenedisulphonic acid was added to the residue, in acetone, the salt which precipitated wasfiltered off with suction, washed with acetone and suspended in methylene chloride, and saturated sodium bicarbonate solution was added. The organicphase was separated off, washed and concentrated. 155 g (54% of theory) of 2-(4-chloro-2-methyl-phenoxymethyl)-3,3-dimethyl-2-methoxy- 1-(1,2,4-triazol-1-yl)butane were obtained as a light yellow oil of refractive index nD20 =1.5390.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-(4-chloro-2-methyl-phenoxy-methyl)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-2-butanol | 0.86 mol, 290 g | ClC1=CC(=C(OCC(CN2N=CN=C2)(C(C)(C)C)O)C=C1)C | C16H22ClN3O2
reactant | iodomethane | 1 mol, 141.9 g | IC | CH3I
reactant | iodomethane | 0.4 mol, 57 g | IC | CH3I
solvent | dioxane | 1,600 ml | O1CCOCC1 | C4H8O2
product | 2-(4-chloro-2-methyl-phenoxymethyl)-3,3-dimethyl-2-methoxy- 1-(1,2,4-triazol-1-yl)butane | 155 g, 54% | ClC1=CC(=C(OCC(CN2N=CN=C2)(C(C)(C)C)OC)C=C1)C | C17H24ClN3O2
